US07241792B2
Preparation of intermediate (±)-6,6-dichloro-spiro[bicyclo[3.1.0]hexane-2,2′-[1,3]dioxolane]
To a solution of 1,4-dioxa-spiro[4.4]non-6-ene (25.23 g, 0.20 mol) in CHCl3 (200 mL) and CH2Cl2 (200 mL) was added triethylbenzylammonium chloride (100 mg) and 50% NaOH solution (200 mL) at rt. This solution was vigorously stirred at 45° C. over 3 days. The reaction mixture was diluted with H2O (300 mL) and extracted with CHCl3 (2×150 mL). The combined organic layer was concentrated in vacuo and the residue was purified by SiO2 column chromatography (0–50% CH2Cl2 in Hexanes) to the title compounds as a colorless liquid. 1H NMR (400 MHz, CDCl3): δ 4.06–3.93 (m, 4 H), 2.25–2.01 (m, 5H), 1.89–1.83 (m, 1H).

reactant | 1,4-dioxa-spiro[4.4]non-6-ene | 0.20 mol, 25.23 g | O1CCOC12C=CCC2 | C7H10O2
reactant | NaOH | 200 mL | [OH-].[Na+]
reactant | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | triethylbenzylammonium chloride | 100 mg | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | H2O | 300 mL | O | H2O
product | (±)-6,6-dichloro-spiro[bicyclo[3.1.0]hexane-2,2′-[1,3]dioxolane] | ClC1(C2CCC3(OCCO3)C12)Cl | C8H10Cl2O2
